US06303627B1
1-benzyl-4-(naphth-1-yl)-1,2,3,6-tetrahydropyridine
A mixture of 2.8 gm (8.8 mMol) 1-benzyl-4-hydroxy-4-(naphth-1-yl)piperidine and 3.36 gm (17.6 mMol) p-toluenesulfonic acid in 50 mL toluene was heated at reflux for about 18 hours. The reaction mixture was then cooled to room temperature and partitioned between ethyl acetate and 2 N sodium hydroxide. The phases were separated and the organic phase was washed with saturated aqueous sodium chloride, dried over sodium sulfate and concentrated under reduced pressure to provide 2.47 gm (94%) of the desired compound as an orange oil.

reactant | 1-benzyl-4-hydroxy-4-(naphth-1-yl)piperidine | 8.8 mMol, 2.8 gm | C(C1=CC=CC=C1)N1CCC(CC1)(C1=CC=CC2=CC=CC=C12)O | C22H23NO
reactant | p-toluenesulfonic acid | 17.6 mMol, 3.36 gm | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 1-benzyl-4-(naphth-1-yl)-1,2,3,6-tetrahydropyridine | 2.47 gm, 94% | C(C1=CC=CC=C1)N1CCC(=CC1)C1=CC=CC2=CC=CC=C12 | C22H21N
